US07135469B2
1-(4-Methoxy-phenyl)-6-(2-oxo-2-pyrrolidin-1-yl-ethyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
Part A: Pyrrolidine (0.152 mL, 1.826 mmol) was dissolved in methylene chloride (6 mL) and cooled to 0° C. 2M Trimethylaluminum (0.652 mL, 1.304 mmol) was added to the reaction and stirred for 30 min at 0° C. [1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid methyl ester (0.100 g, 0.261 mmol) was added and the reaction was stirred overnight at rt. The reaction was quenched with water (100 mL), extracted into methylene chloride (3×50 mL), washed with brine (1×50 mL), dried over MgSO4, concentrated, and purified, by flash chromatography using 0–100% ethyl acetate/hexanes gradient and methanol flush as eluents, followed by further purification by reverse phase HPLC. Freeze-drying afforded 0.052 g (47%): 1H NMR (CDCl3) δ 7.38 (d, j=8.8 Hz, 2H), 6.87 (d, j=9.1 Hz, 2H), 4.15 (s, 2H), 3.77 (t, j=6.8 Hz, 2H), 3.76 (s, 3H), 3.40(t, j=6.8 Hz, 2H), 3.33 (t, j=6.8 Hz, 2H), 3.00(t, j=6.8 Hz, 2H), 1.92–1.85 (m, 2H), 1.82–1.73 (m, 2H) ppm; Mass Spec 423.3(M+H)+.

reactant | Pyrrolidine | 1.826 mmol, 0.152 mL | N1CCCC1 | C4H9N
reactant | Trimethylaluminum | 1.304 mmol, 2M, 0.652 mL | C[Al](C)C
reactant | [1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-acetic acid methyl ester | 0.261 mmol, 0.100 g | COC(CN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)=O | C17H16F3N3O4
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxy-phenyl)-6-(2-oxo-2-pyrrolidin-1-yl-ethyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CC(N2CCCC2)=O)=O)C(F)(F)F | C20H21F3N4O3
